US04062862
5.8 g of o-phenoxyallylbenzene was added to 70 ml of chloroform solution containing perbenzoic acid prepared from 17 g of benzoyl peroxide and the mixture was allowed to stand at about 5° C for 4 days. The resulting mixture was washed with sodium hydroxide solution, Mohr's salt solution, then water and dried on anhydrous sodium sulfate. The solvent was evaporated and the concentrated was chromatographed over a silica gel, eluted with benzene, there was obtained 3.6 g (yield 58%) of o-phenoxyallylbenzene oxide.

reactant | o-phenoxyallylbenzene | 5.8 g | O(C1=CC=CC=C1)C=CCC1=CC=CC=C1 | C15H14O
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 17 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | o-phenoxyallylbenzene oxide | 3.6 g, yield 58% | O(C1=CC=CC=C1)C=CCC12C(C=CC=C1)O2 | C15H14O2
